US07767651B2
2) Synthesis of 2-bromo-1,4-bis(trityloxymethyl)benzene
Under a nitrogen stream, to a solution of trityl chloride (11.58 g, 41.6 mmol) and (2-bromo-4-hydroxymethylphenyl)methanol (4.1 g, 18.9 mmol) in DMF (12 ml), triethylamine (5.8 ml, 41.6 mmol) and DMAP (369.2 mg, 3.02 mmol) were added and the mixture was stirred for 18 hours at room temperature. The reaction mixture was evaporated under reduced pressure to remove the solvent and then extracted with methylene chloride. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then evaporated under reduced pressure to remove the solvent. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:2)) to give the titled compound (2.4 g, 18%).

reactant | trityl chloride | 41.6 mmol, 11.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | (2-bromo-4-hydroxymethylphenyl)methanol | 18.9 mmol, 4.1 g | BrC1=C(C=CC(=C1)CO)CO | C8H9BrO2
reactant | triethylamine | 41.6 mmol, 5.8 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 3.02 mmol, 369.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-bromo-1,4-bis(trityloxymethyl)benzene | 2.4 g, 18% | BrC1=C(C=CC(=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H37BrO2
